US06090836
STEP C: Preparation of methyl 3-chloro-4-(3-(7-propyl-3-trifluoromethyl-6-benz-[4,5]-isoxazoloxy)propylthio) phenylacetic acid
A solution of 3-trifluoromethyl-7-propyl-6-hydroxybenzisoxazole (2.5 grams) in 2-butanone (30 mL) was treated with 1,3-dibromopropane (4.8 mL) and potassium carbonate (5.0 grams). The mixture was refluxed for 4 hours. The reaction mixture was partitioned between isopropyl acetate and pH 4 buffer. The organic was washed once with water, then dried over magnesium sulfate. The organic was filtered and evaporated to an oil which was flitered through a silica gel plug using methylene chloride and hexane (1:2) to give 3-trifluoromethyl-7-propyl-6-(3-bromopropyloxy)-benzisoxazole. A solution of 3-chloro-4-dimethylcarbamoylthio-phenylacetic acid methyl ester (0.33 grams) in dry methanol (3.5 mL) was treated with a solution of sodium methoxide in methanol (25 wt %; 0.341 mL). The solution was refluxed for 2 hours. HPLC analysis showed the disappearance of the carbamate. The solution was allowed to cool to 50° C. 3-trifluoromethyl-7-propyl-6-(3-bromopropyloxy)-benzisoxazole (0.31 grams) was added and the solution stirred for 1 hour. The reaction was partitioned between isopropyl acetate and pH 4 buffer. The organic was washed once more with pH 4 buffer, then water. The organic was dried over magnesium sulfate, filtered and concentrated to an oil. The oil was applied to a silica gel column packed with hexane/methylene chloride (2:1). The column was eluted with this mobile phase until the product began to appear in the eluant. The mobile phase was switched to 100% methylene chloride and elution continued until all the product was recovered.

reactant | 3-chloro-4-dimethylcarbamoylthio-phenylacetic acid methyl ester | 0.33 grams | COC(CC1=CC(=C(C=C1)SC(N(C)C)=O)Cl)=O | C12H14ClNO3S
reactant | sodium methoxide | C[O-].[Na+]
reactant | carbamate | C(N)([O-])=O
reactant | 3-trifluoromethyl-7-propyl-6-(3-bromopropyloxy)-benzisoxazole | 0.31 grams | FC(C1=NOC2=C1C=CC(=C2CCC)OCCCBr)(F)F | C14H15BrF3NO2
solvent | methanol | 3.5 mL | CO | CH4O
solvent | methanol | 0.341 mL | CO | CH4O
product | methyl 3-chloro-4-(3-(7-propyl-3-trifluoromethyl-6-benz-[4,5]-isoxazoloxy)propylthio) phenylacetic acid | CC(C(=O)O)C1=CC(=C(C=C1)SCCCOC=1C=CC=2C(=NOC2C1CCC)C(F)(F)F)Cl | C23H23ClF3NO4S
